US07041672B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ); 7.50–7.48, 7.32–7.28, 5.81, 5.48, 4.38, 3.70, 3.52, 3.14, 2.41, 2.26, 1.20; HRMS (FAB) calcd for C23H23Cl2N3O+H 428.1296, found 428.1288.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C21H19Cl2N3O
product | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)C | C23H23Cl2N3O
